US04693884
Preparation of 2,4,4-triphosphonobutyric acid
190 g of ethyl 2,4,4-tris(diethoxyphosphono)butyrate are dissolved in 600 ml of concentrated hydrochloric acid and stirred at 100° C. for 16 hours, hydrogen chloride being passed in at the same time. The reaction mixture is then evaporated to dryness, and the residue is dissolved in water and converted into the dipotassium salt using the appropriate amount of KOH. The dipotassium salt was recrystallized from aqueous methanol. 88.5 g (60% of theory) of the product are obtained.

reactant | ethyl 2,4,4-tris(diethoxyphosphono)butyrate | 190 g | C(C)OOP(=O)(OOCC)C(C(=O)OCC)CC(P(=O)(OOCC)OOCC)P(=O)(OOCC)OOCC | C18H39O17P3
solvent | hydrochloric acid | 600 ml | Cl | ClH
product | 2,4,4-triphosphonobutyric acid | P(=O)(O)(O)C(C(=O)O)CC(P(=O)(O)O)P(=O)(O)O | C4H11O11P3
